US09315521B2
6-methyl-2-sulfanylpyrimidin-4-ol (772 mg, 5.4 mmol) was dissolved in anhydrous DMF (30 mL), then potassium carbonate (2.25 g, 16.3 mmol) and 4-(chloromethyl)-2-methyl-1,3-thiazole (1.50 g, 8.1 mmol) were added. The mixture was stirred overnight at room temperature. The solid was removed by filtration and washed with methanol, and the filtrate was evaporated. The residue was dissolved in DCM/MeOH and purified on silica gel using 10% DCM in MeOH to afford 6-methyl-2-{[(2-methyl-1,3-thiazol-4-yl)methyl]sulfanyl}pyrimidin-4-ol (244 mg, 18% yield); 1H NMR (400 MHz, DMSO-d6): δ 2.18 (s, 3H), 2.59 (s, 3H), 4.40 (s, 2H), 5.98 (bs, 1H), 7.36 (s, 1H); LRMS (ES+) m/z 254 (80%, M+1).

reactant | 6-methyl-2-sulfanylpyrimidin-4-ol | 5.4 mmol, 772 mg | CC1=CC(=NC(=N1)S)O | C5H6N2OS
reactant | potassium carbonate | 16.3 mmol, 2.25 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(chloromethyl)-2-methyl-1,3-thiazole | 8.1 mmol, 1.50 g | ClCC=1N=C(SC1)C | C5H6ClNS
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 6-methyl-2-{[(2-methyl-1,3-thiazol-4-yl)methyl]sulfanyl}pyrimidin-4-ol | 244 mg, 18% yield | CC1=CC(=NC(=N1)SCC=1N=C(SC1)C)O | C10H11N3OS2
